US07501412B2
1,3-Dimethyl-5-methoxymethoxy-3H-pyrazolo[3,4-c]isoquinoline (1.03 g), N-bromosuccinimide (0.72 g) and benzoyl peroxide (0.05 g) were dissolved in carbon tetrachloride (20 mL), and the mixture was heated under reflux for 4 hrs. After the completion of the reaction, the reaction mixture was cooled to room temperature, washed with saturated aqueous sodium hydrogen carbonate and dried over magnesium sulfate. The solvent was evaporated. The obtained solid was collected by filtration and washed with ether to give 1-bromomethyl-3-methyl-5-methoxymethoxy-3H-pyrazolo[3,4-c]isoquinoline (1.0 g).

reactant | 1,3-Dimethyl-5-methoxymethoxy-3H-pyrazolo[3,4-c]isoquinoline | 1.03 g | CC1=NN(C=2N=C(C=3C=CC=CC3C21)OCOC)C | C14H15N3O2
reactant | N-bromosuccinimide | 0.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.05 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-bromomethyl-3-methyl-5-methoxymethoxy-3H-pyrazolo[3,4-c]isoquinoline | 1.0 g | BrCC1=NN(C=2N=C(C=3C=CC=CC3C21)OCOC)C | C14H14BrN3O2
